US05521147
By the method of Example 1, Step F, 3.70 g (0.0191 mole) of 7-amino-2,3-dihydro-2,2-dimethyl-4-methoxybenzofuran and 3.79 g (0.0191 mole) of trichloromethyl chloroformate were reacted in 100 mL of toluene, yielding 2,3-dihydro-2,2-dimethyl-4-methoxybenzofuran-7-yl isocyanate as a brownish-yellow, viscous oil. The IR spectrum was consistent with the proposed structure.

reactant | 7-amino-2,3-dihydro-2,2-dimethyl-4-methoxybenzofuran | 0.0191 mole, 3.70 g | NC1=CC=C(C=2CC(OC21)(C)C)OC | C11H15NO2
reactant | trichloromethyl chloroformate | 0.0191 mole, 3.79 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3-dihydro-2,2-dimethyl-4-methoxybenzofuran-7-yl isocyanate | CC1(OC2=C(C1)C(=CC=C2N=C=O)OC)C | C12H13NO3
